US05270466
Preparation of 7-Bromo-4,5-dichloro-8-quinazolinol
2,6-Lutidine (0.27 mL, 0.248 g, 2.32 mmol) is added to a solution of 4,5-dichloro-8-quinazolinol (0.5 g, 2.33 mmol) in chloroform at ice bath temperature. A solution of bromine in carbontetrachloride (2.4 mL, 1.0 molar) is then added dropwise to the reaction mixture and a precipitate forms. The reaction mixture is diluted with chloroform, washed sequentially with water and saturated NAHCO3 solution, dried over MgsO4 and concentrated in vacuo to give the title product as a yellow solid, 0.7 g, mp 156.5° C. (dec.).

reactant | 2,6-Lutidine | 2.32 mmol, 0.27 mL, 0.248 g | N1=C(C=CC=C1C)C | C7H9N
reactant | 4,5-dichloro-8-quinazolinol | 2.33 mmol, 0.5 g | ClC1=NC=NC2=C(C=CC(=C12)Cl)O | C8H4Cl2N2O
reactant | bromine | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | carbontetrachloride | 1.0 molar, 2.4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-Bromo-4,5-dichloro-8-quinazolinol | BrC1=CC(=C2C(=NC=NC2=C1O)Cl)Cl | C8H3BrCl2N2O
